US04452809
Trans-3-(4-chlorophenoxy)-4-hydroxy-N,N-dimethyl-1-pyrrolidinecarboxamide
A solution of 3.5 g. of 4-(4-chlorophenoxy)-3-pyrrolidinol, 1.8 g. of dimethylcarbamyl chloride and 1.7 g. of triethylamine in 300 ml of methylene chloride was stirred for 60 hr. The solvent was removed under vacuum, 300 ml of benzene was added and the mixture was refluxed for 2 hr., then filtered. After solvent evaporation, the residue was dissolved in cyclohexane-benzene and charcoaled. The product was then crystallized, collected by filtration and recrystallized from cyclohexane-benzene; m.p. 137°-142° C. Analysis: Calculated for C13H17N2O3Cl: C, 54.84; H, 6.02; N, 9.84. Found: C, 54.64; H, 6.01; N, 9.77.

reactant | 4-(4-chlorophenoxy)-3-pyrrolidinol | ClC1=CC=C(OC2C(CNC2)O)C=C1 | C10H12ClNO2
reactant | dimethylcarbamyl chloride | CN(C(=O)Cl)C | C3H6ClNO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | Trans-3-(4-chlorophenoxy)-4-hydroxy-N,N-dimethyl-1-pyrrolidinecarboxamide | ClC1=CC=C(O[C@@H]2CN(C[C@H]2O)C(=O)N(C)C)C=C1 | C13H17ClN2O3
